US07323588B2
Preparation of Isononyl Benzoate
976 g of benzoic acid (8 mol), 1728 g of isononanol from OXENO Olefinchemie GmbH (12 mol), and 0.59 g of butyl titanate (0.06%, based on the amount of acid) are weighed into a four liter distillation flask on top of which a water separator and reflux condenser have been attached, and which has a sampling port and thermometer, and are heated to boiling under nitrogen. The water of reaction produced during the esterification process was removed sequentially. Once the acid value fell below 0.1 mg KOH/g (after about 3 hours), the mixture was first cooled below 60° C., and a 20 cm multifill column was placed on the apparatus. The pressure was then reduced to 2 mbar, and excess alcohol was first distilled off (about 120° C.). After removal of an intermediate fraction at up to 140° C. it was possible to distill over the isononyl benzoate within a range of 142 to 147° C. (at 2 mbar) measured at the head of the column. Purity >99.7% was determined by gas chromatography.

reactant | benzoic acid | 8 mol, 976 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | isononanol | 1728 g | C(CCCCCC(C)C)O | C9H20O
reactant | OXENO | CC(C1=CC=C(C=C1)CC2CCCC2=O)C(=O)O | C15H18O3
catalyst | butyl titanate | 0.59 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
product | Isononyl Benzoate | C(C1=CC=CC=C1)(=O)OCCCCCCC(C)C | C16H24O2
